US04022891
250 mg of 1α,3β,24-trihydroxycholesta-5,7-diene prepared in the same way as in Example 14, (D-1) was mixed with 210 mg of benzoyl chloride and 5 ml. of pyridine, and the mixture was allowed to stand at 23° C. for one day. The resulting reaction mixture was treated in the same way as in Example 21 to afford 1α-hydroxy-3β,24-dibenzoyloxycholesta-5,7-diene.

reactant | 1α,3β,24-trihydroxycholesta-5,7-diene | 250 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H44O3
reactant | benzoyl chloride | 210 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1α-hydroxy-3β,24-dibenzoyloxycholesta-5,7-diene | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)OC(C5=CC=CC=C5)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C1=CC=CC=C1)=O | C41H52O5
